US04406903
N-Benzyl-5-benzyloxytryptamine, which can be prepared by the procedure of Speeter and Anthony, J.A.C.S., 76, 6208 (1954) by reacting 5-benzyloxy-3-indol-glyoxylyl chloride with benzylamine and reducing the product with lithium aluminium hydride, is reacted with 3-(theophyllin-7-yl)propyl bromide in the presence of a weak base such as potassium carbonate to yield N-benzyl-5-benzyloxy-N-[3-theophyllin-7-yl)propyl]tryptamine. Debenzylation by hydrogenation in the presence of a platinum catalyst gives the desired compound. By starting from 5-acetoxy-3-indolglyoxylyl chloride instead of 5-benzylox-3-indol-glyoxylyl chloride and proceeding in analogous manner 5-acetoxy-N-[3-(theophyllin-7-yl)propyl]tryptamine is prepared. Treatment of this compound with ammonia solution to remove the acetyl group gives the desired compound.

reactant | N-Benzyl-5-benzyloxytryptamine | C(C1=CC=CC=C1)NCCC1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C24H24N2O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(theophyllin-7-yl)propyl bromide | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CCCBr | C10H13BrN4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | tryptamine | NCCC1=CNC2=CC=CC=C12 | C10H12N2
